US08486984B2
10.1 N-(5-Bromo-indan-1-ylmethyl)-propionamide
A solution of (5-bromo-indan-1-yl)-methylamine (240 mg, 0.91 mmol) and triethylamine (363 mg, 3.60 mmol) in THF (5 mL) was stirred at 5° C. and propionic anhydride (125 mg, 0.96 mmol) added dropwise. After the mixture was stirred for 18 h at room temperature, the solvent was removed and ethyl acetate/water were added. The organic layer was washed with water and dried over MgSO4. The filtrate was concentrated to give a white solid (250 mg, 97%).

reactant | (5-bromo-indan-1-yl)-methylamine | 0.91 mmol, 240 mg | BrC=1C=C2CCC(C2=CC1)NC | C10H12BrN
reactant | triethylamine | 3.60 mmol, 363 mg | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.96 mmol, 125 mg | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(5-Bromo-indan-1-ylmethyl)-propionamide | 250 mg, 97% | BrC=1C=C2CCC(C2=CC1)CNC(CC)=O | C13H16BrNO
